US08445505B2
To a mixture of 1-Bromo-2,5-dimethyl-4-nitrobenzene (1 g, 4.34 mmol) and tributyl(1-ethoxyvinyl)tin (1.88 g, 5.2 mmol) in DMF (20 mL), was added tetrakis(triphenylphospine) palladium (0) (250 mg, 5% mmol). The reaction tube was sealed, the mixture was purged with N2 for 3 min and then heated at 90° C. under N2 for overnight. The reaction was cooled to room temperature and poured into aqueous HCl (1N, 100 mL). The mixture was stirred for 1 hour, and then extracted with ethyl acetate (3×100 mL). The organic extracts were combined, washed with brine and concentrated. The crude product was purified with silica gel chromatography (20% ethyl acetate in hexanes) to afford 1-(2,5-dimethyl-4-nitrophenyl)ethanone as a yellow solid.

reactant | 1-Bromo-2,5-dimethyl-4-nitrobenzene | 4.34 mmol, 1 g | BrC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8BrNO2
reactant | tributyl(1-ethoxyvinyl)tin | 5.2 mmol, 1.88 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(2,5-dimethyl-4-nitrophenyl)ethanone | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C(C)=O | C10H11NO3
